US07238842B2
{2-[2-(6-Chloro-hexyloxy)-ethoxy]-ethyl}-carbamic acid anthracen-9-ylmethyl ester.
A 100 ml round bottom flask was charged with [2-(2-Hydroxy-ethoxy)-ethyl]-carbamic acid anthracen-9-ylmethyl ester (1.12 g, 3 mmol) and fresh sodium hydride, 60% dispersion in mineral oil (360 mg, 9 mmol) under inert atmosphere. 20 ml anhydrous THF was added and the reaction allowed to stir for 30 minutes. The flask is then cooled to between −10 and −20° C. by means of an ice/NaCl bath. When the temperature is reached 1-chloro-6-Iodohexane (1 ml, 6 mmol) is added via syringe. The reaction is maintained at ice/NaCl temperature for 2 hours, then slowly allowed to warm to room temperature overnight. At this point silica gel 60 is co-absorbed onto the reaction mixture with loss of solvent under reduced pressure. Silica gel chromatography takes place initially with heptane as eluent, followed by 10%, 20%, and 25% ethyl acetate. A total of 0.57 g (41% yield) of product is isolated from appropriate fractions: 1H NMR (CDCl3) δ 8.48 (s, H-10), 8.38 (d, H-1, 8), 8.01 (d, H-4, 5), 7.52 (dt, H-2, 3, 6, 7), 6.13 (s, CH2-anth), 5.29 (bs, exchangeable, NH), 3.74 (m, 4H), 3.55-3.15 (m, 8H), 1.84 (m, 4H), 1.61 (m, 1H), 1.43 (m, 1H), 1.25 (m, 2H). Mass spectrum, m/e Calcd for C26H32ClNO4H2O: 475.21(100%), 476.22(29.6%). Found: 475.21, 476.52.

reactant | [2-(2-Hydroxy-ethoxy)-ethyl]-carbamic acid anthracen-9-ylmethyl ester | 3 mmol, 1.12 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)COC(NCCOCCO)=O | C20H21NO4
reactant | sodium hydride | [H-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | 1-chloro-6-Iodohexane | 6 mmol, 1 ml | ClCCCCCCI | C6H12ClI
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-[2-(6-Chloro-hexyloxy)-ethoxy]-ethyl}-carbamic acid anthracen-9-ylmethyl ester | 0.57 g, 41% yield | C1=CC=CC2=CC3=CC=CC=C3C(=C12)COC(NCCOCCOCCCCCCCl)=O | C26H32ClNO4
